US06541503B2
2-Oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (2-morpholin-4yl-ethyl)-amide (Z-isomer)
The title compound was prepared from 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester and 2-N-morpholino)ethylamine according to Procedure K: mp210-212° C.; Anal. Calcd for C21H24N6O5S.1/4H2O: C, 52.88; H, 5.18; N, 17.62. Found: C, 52.91; H, 5.24; N, 17.35.

reactant | 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)F)F)F)F | C21H11F5N4O5S
reactant | ethylamine | C(C)N | C2H7N
product | 2-Oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (2-morpholin-4yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O | C21H24N6O5S
